* C:\Users\marco\Documents\GitHub\Marshall\Marshall\marshall_JCM800_50W_4010.asc
V1 Vcc 0 250 Rser=100
C2 N003 0 47µ
V2 Input 0 SINE(0 100mV 1K) AC 1
XU2 N011 N014 N019 NH12AX7
R5 N019 0 820
R6 N002 N011 100K
R7 N002 N003 10K
C4 N002 0 47µF
R8 Input N004 68K
XU3 N009 N004 N017 NH12AX7
R11 N017 0 820
R12 N001 N009 100K
R14 N001 N002 10K
C5 N001 0 47µF
C6 N009 N010 22n
C7 0 N017 10µF
R15 Input N004 68K
R16 Input 0 1Meg
R10 N014 N016 470K
C1 N002 0 47µF
XU1 N002 N011 Vout_pre NH12AX7
R1 Vout_pre 0 100K
R2 N003 Vcc 10K
C3 Vcc 0 47µ
XU4 N010 0 N016 potentiometer Rtot=1Meg wiper=0.5
XU5 N006 A N018 NH12AX7
R3 N018 0 820
R4 N001 N006 100K
C9 0 N018 10µF
C8 N006 N007 470pF
R9 N007 0 47K
R13 A 0 1Meg
R17 N004 0 1Meg
V3 Vcc 0 300 Rser=100
C10 N023 0 47µ
XU6 N033 N036 N040 NH12AX7
R18 N040 0 820
R19 N022 N033 100K
R20 N022 N023 10K
C11 N022 0 47µF
R21 Input N032 68K
XU7 N030 N028 N039 NH12AX7
R22 N039 0 820
R23 N021 N030 20K
R24 N021 N022 10K
C12 N021 0 47µF
C13 N030 N031 22n
C14 0 N039 10µF
R25 Input N032 68K
R26 Input 0 1Meg
R27 N036 N038 470K
C15 N022 0 47µF
XU8 N022 N033 N025 NH12AX7
R28 N025 0 100K
R29 N023 Vcc 10K
C16 Vcc 0 47µ
XU9 N031 0 N038 potentiometer Rtot=1Meg wiper=0.5
XU10 N027 N032 N041 NH12AX7
R30 N041 0 820
R31 N021 N024 10K
C18 N027 N028 470pF
R32 N028 0 47K
R33 N032 0 1Meg
R34 N028 0 1Meg
XU11 N037 0 N042 potentiometer Rtot=25K wiper=1
XU12 N034 N037 N037 potentiometer Rtot=1Meg wiper=1
XU13 N026 N034 N029 potentiometer Rtot=250K wiper=1
C17 N029 Vout_boost_filter 22n
R35 Vout_boost_filter 0 1Meg
C19 N025 N026 250pF
R36 N025 N035 56K
C20 N035 N042 22nF
C21 N035 N034 22n
XU14 N015 0 N020 potentiometer Rtot=25K wiper=0.5
XU15 N012 N015 N015 potentiometer Rtot=1Meg wiper=0.5
XU16 N005 N012 N008 potentiometer Rtot=250K wiper=0.5
C22 N008 Vout_filter 22n
R37 Vout_filter 0 1Meg
C23 Vout_pre N005 250pF
R38 Vout_pre N013 56K
C24 N013 N020 22nF
C25 N013 N012 22n
XU17 N027 N024 N027 potentiometer Rtot=20K wiper=1
;tran 100m
.INC 6BQ5.INC
.ac dec 100m 20 10K
.INC dmtriodep.inc
.inc potentiometer.sub
.inc potentiometer.sub
.backanno
.end
